US05102877
To a solution of oxalyl chloride (7.42 ml) in dichloromethane (250 ml) was added dropwise dimethyl sulfoxide (12.7 ml) at -70° C. To this reaction mixture was added dropwise a solution of 2-allyloxycarbonyl-1-dimethylcarbamoyl-4-(1-hydroxyethyl)pyrazolidine (22 g) in dichloromethane (40 ml), and then was added dropwise triethylamine (56.5 ml) at -70° C. The reaction mixture was allowed to warm to room temperature. The precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was poured into a mixture of ethyl acetate and 1N-aqueous hydrochloric acid, and the organic layer was extracted, washed with brine, and dried over magnesium sulfate. Evaporation of the solvent gave a residual oil, which was chromatographed on silica gel eluting in turn with a mixture of hexane and ethyl acetate (1:2, V/V) and ethyl acetate to give 4-acetyl-2-allyloxycarbonyl-1-dimethylcarbamoylpyrazolidine (21.3 g).

reactant | oxalyl chloride | 7.42 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 12.7 ml | CS(=O)C | C2H6OS
reactant | 2-allyloxycarbonyl-1-dimethylcarbamoyl-4-(1-hydroxyethyl)pyrazolidine | 22 g | C(C=C)OC(=O)N1N(CC(C1)C(C)O)C(N(C)C)=O | C12H21N3O4
reactant | triethylamine | 56.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-acetyl-2-allyloxycarbonyl-1-dimethylcarbamoylpyrazolidine | 21.3 g | C(C)(=O)C1CN(N(C1)C(N(C)C)=O)C(=O)OCC=C | C12H19N3O4
